US04656165
(ea) allyloxycarbonylaminoacetic acid
12 ml of chloroformic acid allyl ester are added dropwise at 0° to a solution of 7.51 g of glycine in 20 ml of water and 44 ml of 5N NaOH solution. The suspension is then stirred for 16 hours at room temperature. After removal of the insoluble material by filtration, the filtrate is diluted with 100 ml of water and washed twice with CH2Cl2. The aqueous phase is adjusted to pH 2 with 4N HCl and extracted twice with CH2Cl2. The combined organic extracts are washed once with brine, dried over MgSO4 and concentrated by evaporation to form the white crystals of the title compound. IR in CH2Cl2 : 3450, 1715 cm-1.

reactant | chloroformic acid allyl ester | 12 ml | C(C=C)OC(=O)Cl | C4H5ClO2
reactant | glycine | 7.51 g | NCC(=O)O | C2H5NO2
solvent | water | 20 ml | O | H2O
solvent | NaOH | 5N, 44 ml | [OH-].[Na+]
product | allyloxycarbonylaminoacetic acid | C(C=C)OC(=O)NCC(=O)O | C6H9NO4
